US06143777
Methyl 4-(3-chlorocarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophen-2-ylcarbamoyl)benzoate is added to a solution of (benzo[1,3]dioxol-5-ylmethyl)amine in dichloromethane and 1.1 equivalents of pyridine and the solution is stirred. The solvent is removed and is worked up in a customary manner. 1.3 g of methyl 4-{3[(benzo[1,3]dioxol-5-ylmethyl)carbamoyl]-4,5,6,7-tetrahydrobenzo[b]thiophene-2-ylcarbamoyl}benzoate, m.p. 165°, are obtained.

reactant | Methyl 4-(3-chlorocarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophen-2-ylcarbamoyl)benzoate | ClC(=O)C=1C2=C(SC1NC(=O)C1=CC=C(C(=O)OC)C=C1)CCCC2 | C18H16ClNO4S
reactant | (benzo[1,3]dioxol-5-ylmethyl)amine | O1COC2=C1C=CC(=C2)CN | C8H9NO2
reactant | pyridine | 1.1 equivalents | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 4-{3[(benzo[1,3]dioxol-5-ylmethyl)carbamoyl]-4,5,6,7-tetrahydrobenzo[b]thiophene-2-ylcarbamoyl}benzoate | 1.3 g | O1COC2=C1C=CC(=C2)CNC(=O)C=2C1=C(SC2NC(=O)C2=CC=C(C(=O)OC)C=C2)CCCC1 | C26H24N2O6S
